US07906648B2
1.093 g (3.582 mmol) of 5-bromo-3-(2-methoxy-1-phenylvinyl)-2-pyridinylamine was dissolved in 60 ml of anhydrous 1,4-dioxane, 800 μl of 70% aqueous perchloric acid was added and the mixture heated to 100° C. for 13 hours. The mixture was then cooled to room temperature and 3 ml of methylamine was added and the mixture evaporated to dryness. The resulting crude was crystallized from hot ethanol to afford 763 mg (2.79 mmol, 78% yield) of 5-bromo-3-phenylpyrrolo[2,3-b]pyridine as a beige-brown to brown crystalline solid. 1H-NMR (d6-DMSO) δ: 12.19 [1H] s, 8.44 [1H] d, 8.34 [1H] d, 7.97 [1H] d, 7.72 [2H] d(m), 7.45 [2H] t, 7.27 [1H] t(m). MS: m/z [MH+].

reactant | 5-bromo-3-(2-methoxy-1-phenylvinyl)-2-pyridinylamine | 3.582 mmol, 1.093 g | BrC=1C=C(C(=NC1)N)C(=COC)C1=CC=CC=C1 | C14H13BrN2O
reactant | perchloric acid | 800 μl | Cl(=O)(=O)(=O)O | ClHO4
reactant | methylamine | 3 ml | CN | CH5N
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 5-bromo-3-phenylpyrrolo[2,3-b]pyridine | 2.79 mmol, 763 mg, 78% yield | BrC=1C=C2C(=NC1)NC=C2C2=CC=CC=C2 | C13H9BrN2
